US03989707
A mixture of 192.8 parts of ethyl N-[2(ethoxycarbonyl)-ethyl]-N-(phenylmethyl)-β-alanine and 280 parts of absolute ethanol is stirred in an hydrogenation vessel. Then there are added 45 parts of hydrochloric acid solution. After cooling, 10 parts of palladium-on-charcoal catalyst 5% are added and the whole is shaken at room temperature while one equivalent of hydrogen is taken up. The catalyst is filtered off and the filtrate is evaporated, yielding ethyl N-[2-(ethoxycarbonyl)ethyl]-β-alanine hydrochloride as an oily residue.

reactant | ethyl N-[2(ethoxycarbonyl)-ethyl]-N-(phenylmethyl)-β-alanine | C(C)C(N(CC1=CC=CC=C1)CCC(=O)OCC)CC(=O)O | C17H25NO4
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | one equivalent | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | ethyl N-[2-(ethoxycarbonyl)ethyl]-β-alanine hydrochloride | Cl.C(C)N(CCC(=O)O)CCC(=O)OCC | InChI=1S/C10H19NO4.ClH/c1-3-11(7-5-9(12)13)8-6-10(14)15-4-2;/h3-8H2,1-2H3,(H,12,13);1H
